US05576321
Preparation of 4-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzo[b]thiophene
A solution of 4-chloro-2-(4-hydroxy-N-t-butoxycarbonylpiperidin-4-yl)benzo[b]thiophene (0.290 g, 0.79 mmol) in methylene chloride (4.0 ml) was treated with 1.5 ml of trifluoroacetic acid and stirred at 23° C. for 4 hours. The reaction was concentrated to a foam under reduced pressure and the residue chromatographed (silica gel, chloroform/methanol 95:5) to give 0.175 g (88%) of a tan powder. FDMS m/e=250 (M+ of free base)

reactant | 4-chloro-2-(4-hydroxy-N-t-butoxycarbonylpiperidin-4-yl)benzo[b]thiophene | 0.79 mmol, 0.290 g | ClC1=CC=CC=2SC(=CC21)C2(CCN(CC2)C(=O)OC(C)(C)C)O | C18H22ClNO3S
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 4.0 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzo[b]thiophene | 0.175 g, 88% | ClC1=CC=CC=2SC(=CC21)C=2CCNCC2 | C13H12ClNS
